US08877794B2
1.6. 1-Methyl-1H-imidazole-4-sulfonic acid {2-[3-(benzyl-cyano-methyl)-4-fluorophenoxy]-ethyl}-amide
To a stirred solution of 2-[5-(2-amino-ethoxy)-2-fluoro-phenyl]-3-phenyl-propionitrile (536 mg, 1.885 mmol) in dry dichloromethane was added 4-dimethylaminopyridine (345 mg, 2.83 mmol) followed by 1-methyl-1H-imidazole-4-sulfonyl chloride (409 mg, 2.262 mmol). The mixture was stirred at RT under argon over night. Dichloromethane was added and the mixture was subsequently washed twice with 1N hydrochloric acid, water, sodium bicarbonate solution, brine and then dried over sodium sulfate, filtered and concentrated to obtain the desired product as a pale yellow solid.

reactant | 2-[5-(2-amino-ethoxy)-2-fluoro-phenyl]-3-phenyl-propionitrile | 1.885 mmol, 536 mg | NCCOC=1C=CC(=C(C1)C(C#N)CC1=CC=CC=C1)F | C17H17FN2O
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | 2.262 mmol, 409 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.83 mmol, 345 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-Methyl-1H-imidazole-4-sulfonic acid {2-[3-(benzyl-cyano-methyl)-4-fluorophenoxy]-ethyl}-amide | C(C1=CC=CC=C1)C(C=1C=C(OCCNS(=O)(=O)C=2N=CN(C2)C)C=CC1F)C#N | C21H21FN4O3S
